US05070089
Methyl 4-(5-formyl-2-hydroxy-3-methoxybenzyl)-1-piperazinecarbodithioate (Com. No. 38)
In 10 ml of ethanol was dissolved 0.86 g of 35% formalin. To the solution was dropwise added under chilling with ice a solution of 1.94 g of methyl 1-piperazinecarbodithioate in 4 ml of ethanol. The mixture was then stirred for 30 min. at room temperature. Under chilling with ice, a solution of 1.52 g of vanilline in 4 ml of ethanol was added to the reaction mixture. The mixture was stirred for 40 min. at room temperature and then refluxed under heating for 10 hours. The reaction mixture was cooled to room temperature to precipitate crystals. The crystals were collected and washed with ethanol to give 2.58 g of the desired compound as a white crystalline product, m.p. 144°-145° C. (decomp.), yield 75.8%.

reactant | formalin | 0.86 g | C=O | CH2O
reactant | methyl 1-piperazinecarbodithioate | 1.94 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | vanilline | 1.52 g | COC=1C=C(C=CC1O)C=O | C8H8O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Methyl 4-(5-formyl-2-hydroxy-3-methoxybenzyl)-1-piperazinecarbodithioate | 2.58 g, yield 75.8% | C(=O)C=1C=C(C(=C(CN2CCN(CC2)C(=S)SC)C1)O)OC | C15H20N2O3S2
